US05401734
2-(N, N-Dimethylamino) methyl-5-hydroxy-4-pyridone (15.85 g) was dissolved in N,N-dimethylformamide (238 ml) by addition of sodium 2-ethylhexanoate (10.44 g) . To the resulting solution was added dropwise a cooled solution of 7β-formamido-3-chloromethyl-3-cephem-4carboxylic acid (13.04 g) at 5° C. and the mixture was stirred for 2 hours at the same temperature. The mixture was added dropwise to a mixture of ethyl acetate (2.5 l) and diisopropyl ether (2.5 l) and the resulting precipitates were collected by filtration, washed three times with a mixture of ethyl acetate and diisopropyl ether (1:1) and dried in vacuo. The powder was poured into cold water (300 ml) and the mixture was adjusted to pH 3.0 with 1N hydrochloric acid. After the insoluble materials were filtered off, the filtrate was chromatographed on Diaion HP-20 (1300 ml) at 50° C. and the elution was carried out with 10% aqueous isopropyl alcohol. The eluate was lyophilized to give 7β-formamido-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo- 1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4carboxylate (8.31 g).

reactant | 2-(N, N-Dimethylamino) methyl-5-hydroxy-4-pyridone | 15.85 g | CN(C)CC1=NC=C(C(C1)=O)O | C8H12N2O2
reactant | sodium 2-ethylhexanoate | 10.44 g | C(C)C(C(=O)[O-])CCCC.[Na+]
reactant | 7β-formamido-3-chloromethyl-3-cephem-4carboxylic acid | 13.04 g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)O)C1=O | C9H9ClN2O4S
reactant | diisopropyl ether | 2.5 l | C(C)(C)OC(C)C | C6H14O
solvent | N,N-dimethylformamide | 238 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 2.5 l | C(C)(=O)OCC | C4H8O2
product | 7β-formamido-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo- 1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4carboxylate | 8.31 g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+](CC=2NC=C(C(C2)=O)O)(C)C)C(=O)[O-])C1=O | C17H20N4O6S
